US06677349B1
Using the general method of Example 255, except that pyridine was used in place of acetonitrile, 1-(3-aminobutyl)-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 5.1 mmol) was reacted with an excess of methanesulfonic anhydride to provide 1.36 g of N-{4-[4-amino-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide as a solid, m.p. 156.4-157.1° C. Analysis: Calculated for C24H29N5O3S: %C, 60.48; %H, 6.34; %N, 14.69; Found: %C, 60.75; %H, 6.36; %N, 14.31.

reactant | 1-(3-aminobutyl)-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.1 mmol, 2.00 g | NC(CCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCOC2=CC=CC=C2)C | C23H27N5O
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | N-{4-[4-amino-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide | 1.36 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CCCOC2=CC=CC=C2 | C24H29N5O3S
